US07776875B2
In a manner similar to the method described in Example 1b, E/Z-4-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-benzoic acid methyl ester (3 g, 6.1 mmol) was reacted with di-tert-butyl-dicarbonate (1.9 g, 8.7 mmol) (Aldrich) and 4-dimethylaminopyridine to give E/Z-3-[5-bromo-2-(4-methoxycarbonyl-phenoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acidtert-butyl ester as an orange solid (Yield 3.2 g, 88%).

reactant | Z-4-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-benzoic acid methyl ester | 6.1 mmol, 3 g | COC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)Br)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C23H15BrClNO4
reactant | di-tert-butyl-dicarbonate | 8.7 mmol, 1.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-3-[5-bromo-2-(4-methoxycarbonyl-phenoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acidtert-butyl ester | Yield 3.2 g, 88% | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Br)OC1=CC=C(C=C1)C(=O)OC)=O | C28H23BrClNO6
